US08440666B2
4-(4,5-Dibromo-6-oxopyridazin-1(6H)-yl)benzoic Acid
4-Hydrazinobenzoic acid (2.00 g, 13.1 mmol) in ethanol-water (1:1, 20 mL) was stirred with mucobromic acid (2.26 g, 8.76 mmol) and concentrated hydrochloric acid (10 mL) at 70° C. for 2 days. After cooling, the resulting crystals were collected by filtration, washed with ethanol and water and dried under reduced pressure to give the desired product (3.05 g, 62% yield).

reactant | 4-Hydrazinobenzoic acid | 13.1 mmol, 2.00 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | mucobromic acid | 8.76 mmol, 2.26 g | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | ethanol water | 20 mL | C(C)O.O
product | 4-(4,5-Dibromo-6-oxopyridazin-1(6H)-yl)benzoic Acid | 3.05 g, 62% yield | BrC=1C=NN(C(C1Br)=O)C1=CC=C(C(=O)O)C=C1 | C11H6Br2N2O3
